US09216173B2
To a solution of 2-{2-[(2,4-dimethoxybenzyl)amino]-6-methylpyridin-4-yl}propan-2-ol (234 mg, 0.740 mmol) in dichloromethane (5 mL) was added TFA (1 mL) at 20° C. After 2 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified by reverse phase HPLC (5-50% acetonitrile/water with 0.1% TFA, linear gradient) to afford 2-(2-amino-6-methylpyridin-4-yl)propan-2-ol. MS ESI calc'd. for C9H15N2O [M+H]+ 167. found 167.

reactant | 2-{2-[(2,4-dimethoxybenzyl)amino]-6-methylpyridin-4-yl}propan-2-ol | 0.740 mmol, 234 mg | COC1=C(CNC2=NC(=CC(=C2)C(C)(C)O)C)C=CC(=C1)OC | C18H24N2O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2-amino-6-methylpyridin-4-yl)propan-2-ol | NC1=NC(=CC(=C1)C(C)(C)O)C | C9H14N2O
